data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2872,3191,[CH3:19][O:20][C:21](=[O:22])[C-:23]([N+:24]#[C:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1.[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([O:20][CH3:19])=[O:22])([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[N:24]=[C:25]2[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,18.35443820810577,-37.74780785098557
161,178,[CH3:11][C:12]#[N+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([F:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:14]([C:15](=[O:16])[NH:17][CH3:18])[N:13]=[C:12]2[CH3:11],water,298.15,15.946768708259704,-52.65371875018474
3239,3658,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([NH+:10]=[CH:11][C:12]#[N:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:14]([CH3:15])=[O:16])[NH:10][CH:11]1[C:12]#[N:13],water,298.15,21.24792480320892,-19.35350542515076
1292,1414,[CH3:11][N-:12][O+:13]=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])/[C:4]([F:5])=[C:6](/[F:7])[C:8]([CH3:9])=[O:10]>>[CH3:1][C:2](=[O:3])[C@:4]1([F:5])[C@:6]([F:7])([C:8]([CH3:9])=[O:10])[N:12]([CH3:11])[O:13][C:14]1([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,6.828407522064885,-36.9858601757183
3106,3496,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[c-:9]1[nH+:10][c:11]([CH3:12])[o:13][c:14]1=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]2([C:7]([NH:6][CH3:5])=[O:8])[NH:10][C:11]1([CH3:12])[O:13][C:14]2=[O:15],water,298.15,28.804745177006737,-4.25223247976641
4838,5520,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,38.18106386612552,-8.237134845221982
3850,4406,[CH3:9][O:10][C:11](=[O:12])[C:13](=[NH+:14][C-:15]([CH3:16])[CH3:17])[C:18]([CH3:19])=[O:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:15]([CH3:16])([CH3:17])[NH:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:18]([CH3:19])=[O:20],water,298.15,31.131510065941267,-1.9813766161035584
4437,5069,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:20](=[O:21])[O:22][CH3:23])[NH:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,23.75266270042745,-20.521899466440534
3596,4104,[CH3:9][NH:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][n:17][n+:18]1[CH3:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][N:17]1[N:18]2[CH3:19],water,298.15,33.95464647636601,10.813589539981477
3481,3965,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([CH3:13])[O:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,13.973436953409363,-37.00438007489287
2088,2316,[N:18]#[C:19][N-:20][O+:21]=[CH:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Br:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:20]([C:19]#[N:18])[O:21][CH:22]2[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,13.163437541497547,-43.574479831024064
859,929,[CH3:15][C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:16]([CH3:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24]#[N:25],water,298.15,15.773446992565972,-42.30291104460727
